### PR TITLE
feat: enumerator functions for groups/rings/fields

### PR DESCRIPTION
**Pull request by vihdzp**

### CODE REVIEW

File: CombinatorialGames/Nimber/SimplestExtension/Closure.lean [hunk 1]
```diff
@@ -212,6 +229,55 @@ theorem groupClosure_of_not_isGroup {x : Nimber} (h : ¬ IsGroup x) (hx₀ : x 
...
+  simp_rw [enumGroup, of.eq_iff_eq, isGroup_iff_mem_range_two_opow]
+  apply congrFun (Ordinal.enumOrd_range (f := fun y ↦ 2 ^ y) fun a b h ↦ ?_)
+  rwa [Ordinal.opow_lt_opow_iff_right one_lt_two]
+
+@[simp]
+theorem enumGroup_zero : enumGroup 0 = 1 := by
+  simp [enumGroup_eq_two_opow]
+
+theorem exists_isGroup_btwn {x : Nimber} (ne : x ≠ 0) : ∃ l u,
+    IsGroup l ∧ IsGroup u ∧ l ≤ x ∧ x < u ∧ ∀ z, l < z → z < u → ¬IsGroup z := by
```
Comment (plp127) [inline CombinatorialGames/Nimber/SimplestExtension/Closure.lean]: Perhaps this should be `∀ z, IsGroup z → l < z → u ≤ z`? (and below)

Comment (vihdzp) [reply CombinatorialGames/Nimber/SimplestExtension/Closure.lean]: You're the one who needs these theorems, so I trust you know the form they're most convenient in.

File: CombinatorialGames/Nimber/SimplestExtension/Closure.lean [hunk 2]
```diff
@@ -192,6 +205,10 @@ theorem groupClosure_one : groupClosure 1 = 1 :=
 theorem groupClosure_two : groupClosure (∗2) = ∗2 :=
   IsGroup.two.groupClosure_eq
 
+theorem IsGroup.one_le {x : Nimber} (h : IsGroup x) : 1 ≤ x := by
```
Comment (plp127) [inline CombinatorialGames/Nimber/SimplestExtension/Closure.lean]: This can go in `SimplestExtension/Basic`

File: CombinatorialGames/Nimber/SimplestExtension/Closure.lean [hunk 3]
```diff
@@ -212,6 +229,54 @@ theorem groupClosure_of_not_isGroup {x : Nimber} (h : ¬ IsGroup x) (hx₀ : x 
...
+theorem enumGroup_le_enumGroup_iff {x y} : enumGroup x ≤ enumGroup y ↔ x ≤ y :=
+  isNormal_enumGroup.strictMono.le_iff_le
+
+@[simp]
+theorem enumGroup_lt_enumGroup_iff {x y} : enumGroup x < enumGroup y ↔ x < y :=
+  isNormal_enumGroup.strictMono.lt_iff_lt
+
+@[simp]
+theorem enumGroup_inj {x y} : enumGroup x = enumGroup y ↔ x = y :=
+  isNormal_enumGroup.strictMono.injective.eq_iff
```
Comment (plp127) [inline CombinatorialGames/Nimber/SimplestExtension/Closure.lean]: Perhaps we could get these for free by using an `OrderEmbedding`?

File: CombinatorialGames/Nimber/SimplestExtension/Closure.lean [hunk 4]
```diff
@@ -432,13 +549,65 @@ theorem fieldClosure_one : fieldClosure 1 = ∗2 := by
 theorem fieldClosure_two : fieldClosure (∗2) = ∗2 :=
   IsField.two.fieldClosure_eq
 
+theorem IsField.two_le {x : Nimber} (h : IsField x) : ∗2 ≤ x := by
+  rw [← fieldClosure_zero, h.fieldClosure_le_iff]
+  exact zero_le _
+
```
Comment (plp127) [inline CombinatorialGames/Nimber/SimplestExtension/Closure.lean]: This should be fine to get rid of since we have `IsRing.two_le` (which should also go in `SimplestExtension/Basic`)
```suggestion
```

File: CombinatorialGames/Nimber/SimplestExtension/Closure.lean (hunk 3 above)
Comment (vihdzp) [reply CombinatorialGames/Nimber/SimplestExtension/Closure.lean]: good idea! i've implemented it.

**Comment by vihdzp** [comment]
I think this should wait for https://github.com/leanprover-community/mathlib4/pull/39136.

**Comment by plp127** [comment]
> I think this should wait for [leanprover-community/mathlib4#39136](https://github.com/leanprover-community/mathlib4/pull/39136).

it's merged now :)
